US08486986B2
Preparation of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid{2-[3-chloro-5-(4-fluorophenyl)thiophen-2-yl]-1-methylethyl}amide (Compound 1.46)
In a sulfonation flask a mixture containing of 207 mg (0.5 mmol) 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid[2-(5-bromo-3-chlorothiophen-2-yl)-1-methylethyl]amide, 90 mg (0.64 mmol) 4-fluorophenylboronic acid, 151 mg (1.8 mmol) sodiumbicarbonate, 36 mg (0.05 mmol) bistriphenylphosphine palladium dichloride, 10 ml dimethoxyethane and 5 ml of water is stirred at reflux for 6 hours. After cooling to ambient temperature ethylacetate and water is added and the organic layer separated and washed again twice with water. After drying (sodium sulphate) and distilling off the solvent in a water jet vacuum, the crude product is obtained. Purification is achieved by column chroma-tography over silicagel (eluent: ethylacetate/heptane 1:1). Yield: 180 mg (80% of theory) of a slightly brown oil (1H-NMR: 1.29/d/3H, 0.9/m/2H, 3.09/m/2H, 3.89/s/3H, 4.42/m/1H, 6.38/s (broad)/1H, 6.89/t/1H—CF2H, 7.05/m/2H, 7.48/m/2H, 7.89/s/1H).

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid[2-(5-bromo-3-chlorothiophen-2-yl)-1-methylethyl]amide | 0.5 mmol, 207 mg | BrC1=CC(=C(S1)CC(C)NC(=O)C=1C(=NN(C1)C)C(F)F)Cl | C13H13BrClF2N3OS
reactant | 4-fluorophenylboronic acid | 0.64 mmol, 90 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodiumbicarbonate | 1.8 mmol, 151 mg | C([O-])(O)=O.[Na+]
reactant | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | water | 5 ml | O | H2O
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid{2-[3-chloro-5-(4-fluorophenyl)thiophen-2-yl]-1-methylethyl}amide | ClC1=C(SC(=C1)C1=CC=C(C=C1)F)CC(C)NC(=O)C=1C(=NN(C1)C)C(F)F | C19H17ClF3N3OS
